US08877782B2
c) (5-Methyl-3-pyridin-2-yl-isoxazol-4-yl)-methanol
To a solution of 5-methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester (4.1 g, 18 mmol) in THF (229 mL) at 0° C. was added lithium aluminum hydride (367 mg, 10 mmol). And the resulting mixture stirred for 1 h at room temperature. Water (1.9 mL) was added carefully followed by aqueous sodium hydroxide (15%, 1.9 mL) and water (0.54 mL). The resulting suspension was stirred for 15 min at ambient temperature and filtered over Hyflo®. Concentration and trituration with heptane afforded the title compound (2.88 g, 86%) as a light yellow solid. MS: m/e=191.3 [M+H]+.

reactant | 5-methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | 18 mmol, 4.1 g | C(C)OC(=O)C=1C(=NOC1C)C1=NC=CC=C1 | C12H12N2O3
reactant | lithium aluminum hydride | 10 mmol, 367 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 1.9 mL | O | H2O
reactant | sodium hydroxide | 1.9 mL | [OH-].[Na+]
reactant | water | 0.54 mL | O | H2O
solvent | THF | 229 mL | C1CCOC1 | C4H8O
product | (5-Methyl-3-pyridin-2-yl-isoxazol-4-yl)-methanol | 2.88 g, 86% | CC1=C(C(=NO1)C1=NC=CC=C1)CO | C10H10N2O2
